US07902252B2
4.40. Synthesis of 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (125)
The title compound was synthesized from methyl 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.151 g, 0.45 mmol) and lithium hydroxide (0.193 g, 4.6 mmol in 2 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (4 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 0.014 g (10% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.03-2.13 (m, 1H), 2.37-2.46 (m, 4H), 2.68 (dd, J1=13.28 Hz, J2=8.88 Hz, 1H), 3.08 (dd, J1=13.52 Hz, J2=4.73 Hz, 1H), 6.56 (s, 1H), 7.10-7.12 (m, 1H), 7.17 (t, J=7.74 Hz, 1H), 7.32-7.35 (m, 2H); LCMS-MS (ESI−) 318.0 (M−H); HPLC (UV=96.26%), (ELSD=100%).

reactant | methyl 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.45 mmol, 0.151 g | BrC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C16H16BrNO2
reactant | lithium hydroxide | 4.6 mmol, 2 mL, 0.193 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 10% yield | BrC=1C=C(CC2CCC3=C2NC(=C3)C(=O)O)C=CC1 | C15H14BrNO2
